US05763481
6,6-Difluorohex-5-enoic acid N-(4-phenylthiophenyl)amide
With cooling at 10°, 8.5 g of 6,6-difluorohex-5-enoic acid chloride are added to 10.0 g of 4-phenylthioaniline, 6.5 g of triethylamine and 100 mg of 4-N-pyrrolidinopyridine in 250 ml of tetrahydrofuran. The mixture is stirred for 2 hours at room temperature and then concentrated by evaporation in vacuo. The residue is taken up in toluene, the toluene phase is washed with water, dried over sodium sulfate and 90-95% of the amount of toluene is evaporated off in vacuo. While the mixture is still warm, a small amount of hexane is added, which causes the product to crystallise out. The mixture is cooled and filtered, and the filter residue is washed with hexane, yielding the title compound having a melting point of 80°-81° (compound no. 2-1).

reactant | 6,6-difluorohex-5-enoic acid chloride | 8.5 g | FC(=CCCCC(=O)Cl)F | C6H7ClF2O
reactant | 4-phenylthioaniline | 10.0 g | C1(=CC=CC=C1)SC1=CC=C(N)C=C1 | C12H11NS
reactant | triethylamine | 6.5 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 6,6-Difluorohex-5-enoic acid N-(4-phenylthiophenyl)amide | C1(=CC=CC=C1)SC1=CC=C(C=C1)NC(CCCC=C(F)F)=O | C18H17F2NOS
